US06498154B1
3-(4,4-Dimethyl-2-thioxo-1,2,3,4-tetrahydroquinolin-6-yl)5-fluorobenzonitrile
Prepared by heating under reflux overnight a stirred mixture of 3-(4,4-dimethyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl)-5-fluorobenzonitrile and an equal weight of phosphorus pentasulfide in pyridine and workup as in the previous example gave a yellow solid: mp. 240-242° C. dec.; 1H-NMR (DMSO-d6) δ 12.37 (s, 1H), 8.13 (s, 1H), 7.98 (dt,1H, J=10.4 and 5.4 Hz), 7.81 (d, 1H, J=8.4 Hz), 7.7 (d, 1H, J=1.8 Hz), 7.68 (dd, 1H, J=8.3 and 1.9 Hz), 7.22 (d, 1H, J=8.3 Hz), 2.85 (s, 2H), 1.27 (s, 6H); MS m/z 309 [M−H]− Anal. Calc. For C18H15FN2S 0.10 H2O: C, 69.25, H, 4.91, N, 8.97. Found: C, 69.15, H, 4.74, N 8.75.

reactant | 3-(4,4-dimethyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl)-5-fluorobenzonitrile | CC1(CC(NC2=CC=C(C=C12)C=1C=C(C#N)C=C(C1)F)=O)C | C18H15FN2O
reactant | phosphorus pentasulfide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-(4,4-Dimethyl-2-thioxo-1,2,3,4-tetrahydroquinolin-6-yl)5-fluorobenzonitrile | CC1(CC(NC2=CC=C(C=C12)C=1C=C(C#N)C=C(C1)F)=S)C | C18H15FN2S
